### PR TITLE
[Merged by Bors] - feat: multiple composition of kernels indexed by `Nat`

### PR DESCRIPTION
**Pull request by EtienneC30**
Given a family of kernels `κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))`, we define a kernel `ptraj κ a b : Kernel (Π i : Iic a, X i) (Π i : Iic b, X i)`, which is obtained by composing iteratively `κ a`, `κ (a + 1)` and so on. This is a building block to prove Ionescu-Tulcea theorem, which in turn allows to define the product of an arbitrary family of probability measures.

From [KolmogorovExtension4](https://github.com/sgouezel/kolmogorov_extension4)

---

- [x] depends on: #22191
- [x] depends on: #22199
- [x] depends on: #22200
- [x] depends on: #22206
- [x] depends on: #22212

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean [hunk 1]
```diff
@@ -0,0 +1,510 @@
...
+the product of an infinite family of probability measures. The idea of the statement is as follows:
+consider a family of kernels `κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))`.
+One can interpret `κ n` as a kernel which takes as an input the trajectory of a point started in
+`X 0` and moving `X 0 → X 1 → X 2 → ... → X n` and which outputs the distribution of the next
+position of the point in `X (n + 1)`. If `a b : ℕ` and `a < b`, we can compose the kernels,
+and `κ a ⊗ₖ κ (a + 1) ⊗ₖ ... ⊗ₖ κ b` will take the trajectory up to time `a` as input and outputs
+the distrbution of the trajectory in `X (a + 1) × ... × X (b + 1)`.
+
+The Ionescu-Tulcea theorem then tells us that these compositions can be extend into a kernel
+`η : Kernel (Π i : Iic a, X i) → Π n ≥ a, X n` which given the trajectory up to time `a` outputs
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean:22]:
```suggestion
`η : Kernel (Π i : Iic a, X i) → Π n > a, X n` which given the trajectory up to time `a` outputs
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean [hunk 2]
```diff
@@ -0,0 +1,510 @@
...
+the distribution of the infinite trajectory started in `X (a + 1)`. In other words this theorem
+makes sense of composing infinitely many kernels together.
+
+To be able to even state the theorem we want to take the composition-product
+(see `ProbabilityTheory.Kernel.compProd`) of consecutive kernels.
+This however is not straight forward.
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean:28]:
```suggestion
This however is not straightforward.
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean [hunk 3]
```diff
@@ -0,0 +1,510 @@
...
+/-!
+# Consecutive composition of kernels
+
+This file is the first step towards Ionescu-Tulcea theorem, which allows for instance to construct
+the product of an infinite family of probability measures. The idea of the statement is as follows:
+consider a family of kernels `κ : (n : ℕ) → Kernel (Π i : Iic n, X i) (X (n + 1))`.
+One can interpret `κ n` as a kernel which takes as an input the trajectory of a point started in
+`X 0` and moving `X 0 → X 1 → X 2 → ... → X n` and which outputs the distribution of the next
+position of the point in `X (n + 1)`. If `a b : ℕ` and `a < b`, we can compose the kernels,
+and `κ a ⊗ₖ κ (a + 1) ⊗ₖ ... ⊗ₖ κ b` will take the trajectory up to time `a` as input and outputs
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean:18]:
```suggestion
and `κ a ⊗ₖ κ (a + 1) ⊗ₖ ... ⊗ₖ κ b` takes the trajectory up to time `a` as input and outputs
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean [hunk 4]
```diff
@@ -0,0 +1,510 @@
...
+/-- Given a family of kernels `κ n` from `X 0 × ... × X n` to `X (n + 1)` for all `n`,
+construct a kernel from `X 0 × ... × X a` to `X 0 × ... × X b` by iterating `κ`.
+
+The idea is that the input is some trajectory up to time `a`, and the ouptut is the distribution
+of the trajectory up to time `b`. In particular if `b ≤ a`, this is just a deterministic kernel
+(see `ptraj_le`). The name `ptraj` stands for "partial trajectory".
+
+This kernel can be extended into a kernel with codomain `Π n, X n` via the Ionescu-Tulcea theorem.
+-/
+noncomputable def ptraj (a b : ℕ) : Kernel (Π i : Iic a, X i) (Π i : Iic b, X i) :=
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Probability/Kernel/IonescuTulcea/PTraj.lean]: I went for `partialTraj`.

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean [hunk 5]
```diff
@@ -0,0 +1,519 @@
...
+
+/-- When `IicProdIoc` is only partially applied (i.e. `IicProdIoc a b x` but not
+`IicProdIoc a b x i`) `simp [IicProdIoc]` won't unfold the definition.
+This lemma allows to unfold it by writing `simp [IicProdIoc_def]`. -/
+lemma IicProdIoc_def (a b : ℕ) :
+    IicProdIoc (X := X) a b = fun x i ↦ if h : i.1 ≤ a then x.1 ⟨i, mem_Iic.2 h⟩
+      else x.2 ⟨i, mem_Ioc.2 ⟨not_le.1 h, mem_Iic.1 i.2⟩⟩ := rfl
+
+lemma frestrictLe₂_comp_IicProdIoc {a b : ℕ} (hab : a ≤ b) :
+    (frestrictLe₂ hab) ∘ (IicProdIoc (X := X) a b) = Prod.fst := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:95]: It looks like you need to write `IicProdIoc (X := X) a b` at almost every occurence of `IicProdIoc`. You should make `X` explicit and write `IicProdIoc X a b`.

Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:95]: Same comment for `IocProdIoc`

Comment (EtienneC30) [reply Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:95]: I wondered about that. It's true that when I write lemmas which are only about the map I have to specify `X`, but when I apply it to an element or to a kernel it is not needed. In the end I settled for the implicit version because I think that when it is used for other purposes than its own (which should be the most common use cases) you don't need to specify `X` most of the time, and because in [Set.restrict](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Function.html#Set.restrict) which is similar the argument is implicit. I did the same with `piLE` in #22382 btw. Do you still think I should make it explicit?

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean [hunk 6]
```diff
@@ -0,0 +1,522 @@
...
+lemma lmarginalPartialTraj_mono (a b : ℕ) {f g : (Π n, X n) → ℝ≥0∞} (hfg : f ≤ g) (x₀ : Π n, X n) :
+    lmarginalPartialTraj κ a b f x₀ ≤ lmarginalPartialTraj κ a b g x₀ :=
+  lintegral_mono fun _ ↦ hfg _
+
+/-- Integrating `f` against `partialTraj κ a b x` is the same as integrating only over the variables
+  from `x_{a+1}` to `x_b`. -/
+lemma lmarginalPartialTraj_eq_lintegral_map [∀ n, IsSFiniteKernel (κ n)] {f : (Π n, X n) → ℝ≥0∞}
+    (mf : Measurable f) (x₀ : Π n, X n) : lmarginalPartialTraj κ a b f x₀ =
+    ∫⁻ x : (Π i : Ioc a b, X i), f (updateFinset x₀ _ x)
+      ∂(partialTraj κ a b).map (restrict₂ Ioc_subset_Iic_self) (frestrictLe a x₀) := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:420]:
```suggestion
    (mf : Measurable f) (x₀ : Π n, X n) :
    lmarginalPartialTraj κ a b f x₀ =
    ∫⁻ x : (Π i : Ioc a b, X i), f (updateFinset x₀ _ x)
      ∂(partialTraj κ a b).map (restrict₂ Ioc_subset_Iic_self) (frestrictLe a x₀) := by
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean [hunk 7]
```diff
@@ -0,0 +1,522 @@
...
+
+open ProbabilityTheory Kernel
+
+namespace DependsOn
+
+/-! ### Lemmas about `lmarginalPartialTraj` and `DependsOn` -/
+
+/-- If `f` only depends on the variables up to rank `a` and `a ≤ b`, integrating `f` against
+`partialTraj κ b c` does nothing. -/
+theorem lmarginalPartialTraj_le [∀ n, IsMarkovKernel (κ n)] (c : ℕ) {f : (Π n, X n) → ℝ≥0∞}
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:482]:
```suggestion
theorem lmarginalPartialTraj_of_le [∀ n, IsMarkovKernel (κ n)] (c : ℕ) {f : (Π n, X n) → ℝ≥0∞}
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean (hunk 5 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:95]: Ok. If there are other uses where it's better to have it implicit, let's keep it implicit.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
I only have minor comments.
bors d+

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean [hunk 8]
```diff
@@ -0,0 +1,522 @@
...
+      omega
+    nth_rw 1 [← partialTraj_comp_partialTraj h k.le_succ, hk, partialTraj_succ_self, comp_map,
+      comap_map_comm, comap_prod, id_comap, ← id_map, map_prod_eq, ← map_comp_right, this,
+      map_comp_right, id_prod_eq, prodAssoc_prod, map_comp_right, ← map_prod_map, map_id,
+      ← map_comp, map_apply_eq_iff_map_symm_apply_eq, fst_prod_comp_id_prod, ← map_comp_right,
+      ← coe_IicProdIoc (h.trans k.le_succ), symm_comp_self, map_id,
+      deterministic_congr IicProdIoc_comp_restrict₂.symm, ← deterministic_comp_deterministic,
+      comp_deterministic_eq_comap, ← comap_prod, ← map_comp, ← comp_map, ← hk,
+      ← partialTraj_comp_partialTraj h k.le_succ, partialTraj_succ_self, map_comp, map_comp,
+      ← map_comp_right, ← id_map, map_prod_eq, ← map_comp_right]
```
[the remark this answers is not in the document]
Comment (EtienneC30) [reply Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:340]: The first proof I came up with used extensionality but I ended up with tens of measurability subgoals and the performance was very bad.

**Comment by EtienneC30** [comment]
Thank you very much for the quick review!
bors merge

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean:342]: Using extensionality also feels wrong, except for setting up the basic api of a new kernel definition: once the kernels are defined in terms of the basic kernels building blocks, most computations should be doable while staying in the category of kernels. It also has the benefit of avoiding measurability subgoals, as you write, and integral manipulations.

I guess (again without looking too closely) that the proof you have here is morally right. It's just that we should improve the library to make it more efficient.
Or perhaps it needs a `calc` block to better show what happens, but I guess that what happens in those `rw` is not very important. Let's not try to improve it now and let's merge this PR.
